US07691879B2
Step A: 2-Allyl-4(3-fluorophenyl)-6-hydroxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile
Sodium cyanide (3.3 g, 67.2 mmol) was added to a suspension of 2-Allyl-4-(3-fluorophenyl)-6-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile (7.5 g, 22.4 mmol) in DMSO (100 mL). The reaction mixture was heated to 150° C. for 18 h. The reaction was cooled to room temperature and diluted with ice water (100 mL). This was acidified to a pH of 5 with 6M HCl. The brown precipitate was filtered and washed with ether to yield the title compound as a brown solid.

reactant | Sodium cyanide | 67.2 mmol, 3.3 g | [C-]#N.[Na+]
reactant | 2-Allyl-4-(3-fluorophenyl)-6-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile | 22.4 mmol, 7.5 g | C(C=C)N1C(C2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)OC)=O | C20H15FN2O2
reactant | HCl | 6M | Cl | ClH
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 2-Allyl-4(3-fluorophenyl)-6-hydroxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile | C(C=C)N1C(C2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)O)=O | C19H13FN2O2
